US04092414
A mixture of 2-aminomethyl-4-(1,1-dimethylethyl)-6-iodophenol (1.5 g., 0.005 mole), 2-oxotricyclo(3.3.1.1.3,7)-decane (0.75 g., 0.005 mole) and p-toluenesulfonic acid (50 mg.) in benzene (25 ml.) is refluxed under a Dean-Stark trap for 2 hr. The solution is cooled, filtered, and evaporated to dryness. The residue is crystallized from ethanol to obtain 3,4-dihydro-6-(1,1-dimethylethyl)-8-iodospiro[2H-1,3-benzoxazine-2,2'-tricyclo(3.3.1.13,7)decane] (1.4 g.), m.p. 165°-166° C.

reactant | 2-aminomethyl-4-(1,1-dimethylethyl)-6-iodophenol | 0.005 mole, 1.5 g | NCC1=C(C(=CC(=C1)C(C)(C)C)I)O | C11H16INO
reactant | decane | 0.005 mole, 0.75 g | CCCCCCCCCC | C10H22
reactant | benzene | 25 ml | C1=CC=CC=C1 | C6H6
catalyst | p-toluenesulfonic acid | 50 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 3,4-dihydro-6-(1,1-dimethylethyl)-8-iodospiro[2H-1,3-benzoxazine-2,2'-tricyclo(3.3.1.13,7)decane] | 1.4 g | CC(C)(C)C=1C=C(C2=C(CNC3(C4CC5CC(CC3C5)C4)O2)C1)I | C21H28INO
